US06858605B2
(±)-8-Methyl-5-(4-nitrophenyl)-8,9-dihydro-7H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-7-carboxylic acid (2-chloroethyl)-amide (XXV)
A mixture of 1.0 g (3.07 mmol) of (±)-8-methyl-5-(4-nitrophenyl)-8,9-dihydro-7H-1,3-dioxolo[4,5-h][2,3]benzodiazepine, 25 ml of dry dichloromethane and 0.62 g (5.88 mmol of 2-chloroethyl isocyanate was stirred at room temperature for 24 h, then concentrated. The residue was purified by refluxing in ethanol to yield 1.25 g (94%) of the title compound, Mp.: 222-223° C.

reactant | (±)-8-methyl-5-(4-nitrophenyl)-8,9-dihydro-7H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 3.07 mmol, 1.0 g | CC1NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H15N3O4
reactant | 2-chloroethyl isocyanate | 5.88 mmol | ClCCN=C=O | C3H4ClNO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (±)-8-Methyl-5-(4-nitrophenyl)-8,9-dihydro-7H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-7-carboxylic acid (2-chloroethyl)-amide | 1.25 g, 94% | ClCCNC(=O)N1N=C(C2=C(CC1C)C=C1C(=C2)OCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H19ClN4O5
